US04709050
3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-n-dodecylpyrrolidine-2,5-dione
This compound is prepared by the procedure of Example 1 from 2.40 g (0.1 mol) of sodium hydride, 20.63 g (0.1 mol) of 2,6-di-tert-butylphenol, and 26.54 g (0.1 mol) of N-n-dodecylmaleimide in tert-butyl alcohol. The reaction mixture is concentrated in vacuo and the residue is dissolved in 800 ml of toluene. The toluene solution is extracted sequentially with 1M sodium hydroxide (2×100 ml) and water (6×200 ml). The organic phase is dried over anhydrous sodium sulfate. The solvent is removed in vacuo and the residue purified by flash chromatography (8:2 heptane: ethyl acetate eluent) followed by recrystallization from petroleum ether to give 8.15 g (17%) of a white solid: mp 66°-70° C.

reactant | sodium hydride | 0.1 mol, 2.40 g | [H-].[Na+]
reactant | 2,6-di-tert-butylphenol | 0.1 mol, 20.63 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | N-n-dodecylmaleimide | 0.1 mol, 26.54 g | C(CCCCCCCCCCC)N1C(C=CC1=O)=O | C16H27NO2
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-n-dodecylpyrrolidine-2,5-dione | 8.15 g, 17% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(C1)=O)CCCCCCCCCCCC)=O | C30H49NO3
